US08748434B2
a) 3-(3-tert-Butoxycarbonyl-propane-1-sulfonyl)-5-trifluoromethyl-benzoic acid
To a solution of 3-(3-tert-butoxycarbonyl-propane-1-sulfonyl)-5-trifluoromethyl-benzoic acid methyl ester (100 mg, 0.244 mmol) in dioxane (1 mL) was added water (1 mL) and lithiumhydroxide monohydrate (11.2 mg, 0.268 mmol) and the resulting suspension stirred at room temperature for 4 hours. The reaction mixture was acidified with 1M aqueous hydrochloric acid and extracted with EtOAc (30 mL) and the layers were separated. The aqueous layer was extracted a second time with EtOAc (30 mL). The organic layers were washed with brine (30 mL), dried over magnesium sulfate, filtered and concentrated under vacuum. Colorless solid (76 mg, 78.7%). MS (ESI−): m/z=395.08 ([M−H]−).

reactant | 3-(3-tert-butoxycarbonyl-propane-1-sulfonyl)-5-trifluoromethyl-benzoic acid methyl ester | 0.244 mmol, 100 mg | COC(C1=CC(=CC(=C1)C(F)(F)F)S(=O)(=O)CCCC(=O)OC(C)(C)C)=O | C17H21F3O6S
reactant | water | 1 mL | O | H2O
reactant | lithiumhydroxide monohydrate | 0.268 mmol, 11.2 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 3-(3-tert-Butoxycarbonyl-propane-1-sulfonyl)-5-trifluoromethyl-benzoic acid | C(C)(C)(C)OC(=O)CCCS(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C16H19F3O6S
